* C:\users\quan\My Documents\VGU\Power-Meter\ltspice\example_PMOS_high_switch.asc
V1 Vin 0 PULSE(0 12 0 1u 1u 500m)
R_load out 0 4.7
D1 gate Vin EDZV18B
C1 out 0 100µF
V§5V N001 0 PULSE(5 0 200m 1u 1u 100m)
Q1 gate N002 N003 0 2N2222
R_pullup gate Vin 10k
R_b N002 N001 500
XU2 out gate Vin IRF4905
R_1 N003 0 6k8
.model D D
.lib C:\users\quan\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\quan\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 500m 0 startup
.lib ..\sym\ZZZ\MOS\IRF\LIB\irf4905.spi
.backanno
.end
